US08084623B2
3-[(4,5-Dichloro-thiophen-2-yl)-hydroxy-methyl]-3-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared from 2,3-dichloro-thiophene and 3-formyl-3-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester using the procedure of step 1 of Example 20.

reactant | 2,3-dichloro-thiophene | ClC=1SC=CC1Cl | C4H2Cl2S
reactant | 3-formyl-3-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)(CCC)C=O | C13H23NO3
product | 3-[(4,5-Dichloro-thiophen-2-yl)-hydroxy-methyl]-3-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)(CCC)C(O)C=1SC(=C(C1)Cl)Cl | C17H25Cl2NO3S
